US08703758B2
F) trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexanecarbaldehyde
To a solution of {trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}methanol (3.50 g) in acetonitrile (100 mL) was added Dess-Martin reagent (5.93 g), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (3.30 g).

reactant | {trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}methanol | 3.50 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)CO | C18H24N2O2
reactant | Dess-Martin reagent | 5.93 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexanecarbaldehyde | 3.30 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)C=O | C18H22N2O2
